US06649763B1
Preparation of 1-Benzyloxycarbonyl-4-ethoxycarbonyl-4-methylpyrrolidin-3-one
To the solution of N-benzyloxycarbonyl-4-ethoxycarbonylpyrrolidin-3-one (291 g) in acetone (1.5 l) was added potassium carbonate (200 g), followed by iodomethane (300 mL), and then the solution was refluxed for 3 hr. The reaction mixture was cooled at room temperature, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: n-hexane=1:6) to obtain the desired compound (237.7 g, 80.7%).

reactant | N-benzyloxycarbonyl-4-ethoxycarbonylpyrrolidin-3-one | 291 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)C(=O)OCC)=O | C15H17NO5
reactant | potassium carbonate | 200 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 300 mL | IC | CH3I
solvent | acetone | 1.5 l | CC(=O)C | C3H6O
product | 1-Benzyloxycarbonyl-4-ethoxycarbonyl-4-methylpyrrolidin-3-one | 237.7 g, 80.7% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)(C)C(=O)OCC)=O | C16H19NO5
